* C:\Users\rachidox\Home\github\pulsar\circuits\pulsar.asc
V1 V+ 0 5
V4 Chan2 0 PULSE(0 5 3m 1u 1u 50u 100u 4)
XX1 Chan2 N007 0 V+ N007 N001 d-flip-flop
XX2 N001 N008 0 V+ N008 N002 d-flip-flop
XX3 N002 N009 0 V+ N009 N003 d-flip-flop
XX4 N003 N010 0 V+ N010 N004 d-flip-flop
XX5 Chan1 N001 0 V+ NC_01 P0 d-flip-flop
XX6 Chan1 N002 0 V+ NC_02 P1 d-flip-flop
XX7 Chan1 N003 0 V+ NC_03 P2 d-flip-flop
XX8 N004 N011 0 V+ N011 N005 d-flip-flop
XX9 Chan1 N004 0 V+ NC_04 P3 d-flip-flop
V3 Chan1 0 PULSE(0 5 10m 1u 1u 50u 100u 1)
XX10 N005 N012 0 V+ N012 N006 d-flip-flop
XX11 Chan1 N005 0 V+ NC_05 P4 d-flip-flop
XX12 N006 N013 0 V+ N013 NC_06 d-flip-flop
XX13 Chan1 N006 0 V+ NC_07 P5 d-flip-flop

* block symbol definitions
.subckt d-flip-flop E D G V+ !Q Q
V1 TestV+ G 5
V2 TestClk G PULSE(0 5 0.25ms 100n 100n 25u 50u 10)
V3 TestPulse G PULSE(0 5 0.25ms 1n 1n 25u 50u 1)
Q9 Q N001 G 0 2N3904
Q10 !Q N002 G 0 2N3904
R13 N001 !Q 47k
R14 Q N002 47k
D1 N002 N006 1N4148
D2 N001 N005 1N4148
R15 Q V+ 1k
R16 !Q V+ 1k
C1 !Q N001 39pf
C2 N002 Q 39pf
C3 N006 E 100pf
C4 N005 E 100pf
Q11 N003 N004 G 0 2N3904
R17 N003 V+ 1k
R18 D N004 100k
R19 D N006 200k
R20 N003 N005 200k
.ends d-flip-flop

.model D D
.lib C:\Users\rachidox\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\rachidox\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 20m 0 1m
.backanno
.end
