* C:\Users\rachidox\Home\github\pulsar\circuits\pulsar.asc
V§Power_Supply V+ 0 5
V§Channel_2 N003 0 PULSE(0 1m 3m 1u 1u 50u 100u 4)
XX1 N004 N011 0 V+ N011 N005 d-flip-flop
XX2 N005 N012 0 V+ N012 N006 d-flip-flop
XX3 N006 N013 0 V+ N013 N007 d-flip-flop
XX4 N007 N014 0 V+ N014 N008 d-flip-flop
XX5 N002 N005 0 V+ NC_01 P0 d-flip-flop
XX6 N002 N006 0 V+ NC_02 P1 d-flip-flop
XX7 N002 N007 0 V+ NC_03 P2 d-flip-flop
XX8 N008 N015 0 V+ N015 N009 d-flip-flop
XX9 N002 N008 0 V+ NC_04 P3 d-flip-flop
V§Channel_1 N001 0 PULSE(0 1m 10m 1u 1u 50u 100u 1)
XX10 N009 N016 0 V+ N016 N010 d-flip-flop
XX11 N002 N009 0 V+ NC_05 P4 d-flip-flop
XX13 N002 N010 0 V+ NC_06 P5 d-flip-flop
XAmplifier2 0 V+ N003 N004 voltage-amplifier
XAmplifier1 0 V+ N001 N002 voltage-amplifier

* block symbol definitions
.subckt d-flip-flop E D G V+ !Q Q
V1 TestV+ G 5
V2 TestClk G PULSE(0 5 0.25ms 100n 100n 25u 50u 10)
V3 TestPulse G PULSE(0 5 0.25ms 1n 1n 25u 50u 1)
Q9 Q N001 G 0 2N3904
Q10 !Q N002 G 0 2N3904
R13 N001 !Q 47k
R14 Q N002 47k
D1 N002 N006 1N4148
D2 N001 N005 1N4148
R15 Q V+ 1k
R16 !Q V+ 1k
C1 !Q N001 39pf
C2 N002 Q 39pf
C3 N006 E 100pf
C4 N005 E 100pf
Q11 N003 N004 G 0 2N3904
R17 N003 V+ 1k
R18 D N004 100k
R19 D N006 200k
R20 N003 N005 200k
.ends d-flip-flop

.subckt voltage-amplifier Gnd V+ Vin Vout
Q2 N003 N004 Gnd 0 2N3904
Q3 N001 N003 N005 0 2N3904
C4 N004 Vin 10µ
C5 N002 N001 10µ
R3 V+ N001 4.7k
R6 V+ N003 4.7k
R7 N005 N004 100k
R8 N005 Gnd 4.7k
C6 Gnd N005 10µ
A1 N002 Gnd Gnd Gnd Gnd Gnd Vout Gnd BUF Ref=0.8 Vhigh=5
.ends voltage-amplifier

.model D D
.lib C:\Users\rachidox\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\rachidox\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 20m 0 1m
.backanno
.end
